US04748256
2-(1-bromoethyl)-2-(5-bromo-6-methoxy-2-naphthyl)-5,5-dimethyl-1,3-dioxane (9.16 g, 10 mmol) is dissolved in toluene (40 ml) and nitrobenzene (2 g) saturated with HBr at room temperature. Phenol (11.28 g, 120 mmol) is added as solid; the mixture is stirred for 2.5 hours, then is poured in 30 minutes under stirring into a 10% aqueous sodium carbonate solution (150 ml), the organic layer is separated and the aqueous phase is extracted with toluene. The combined organic extracts are washed with water, dried on sodium sulphate and the solvent is removed in vacuo. 2-(1-bromoethyl)-2-(6-methoxy-2-naphthyl)-5,5-dimethyl-1,3-dioxane is obtained (75% yield).

reactant | 2-(1-bromoethyl)-2-(5-bromo-6-methoxy-2-naphthyl)-5,5-dimethyl-1,3-dioxane | 10 mmol, 9.16 g | BrC(C)C1(OCC(CO1)(C)C)C1=CC2=CC=C(C(=C2C=C1)Br)OC | C19H22Br2O3
reactant | nitrobenzene | 2 g | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | HBr | Br | BrH
reactant | Phenol | 120 mmol, 11.28 g | C1(=CC=CC=C1)O | C6H6O
reactant | sodium carbonate | 150 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(1-bromoethyl)-2-(6-methoxy-2-naphthyl)-5,5-dimethyl-1,3-dioxane | 75% yield | BrC(C)C1(OCC(CO1)(C)C)C1=CC2=CC=C(C=C2C=C1)OC | C19H23BrO3
